US05342846
5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]- 1,4,dihydro-4-oxoquinoline -3-carboxylic acid
5-Amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (298 mg, 1 mmol) was reacted with 470 mg (2.5 mmol) of 3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride in the presence of 380 mg (2.5 mmol) of DBU in 20 ml of dry acetonitrile for two days under reflux conditions and the atmosphere of nitrogen. The yellow suspension was then evaporated to dryness and to the residue water was added. The yellow solid was filtered and crystallized repeatedly (3x) with acetonitrile to free the product from the unreacted starting material. After drying, 200 mg of the desired product was obtained, m.p. 271°-272.5° C. 1H NMR (TFA) δ: 9.15 (s, 1H), 8.4 (s, 1H), 5.8-5.6 (m, 1H), 4.8-4.05 (m, 5H), 3.0-2.7 (m, 2H), 2.67 (s, 3H), 1.65-1.2 (m, 4H). Anal. calcd. for C20H20F2N6O3.1/2 H2O: C, 54.67; H, 4.82; N, 19.12. Found: C, 54.91; H, 4.69; N, 18.76.

reactant | 5-Amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 mmol, 298 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 2.5 mmol, 470 mg | Cl.CC=1N=NN(C1)C1CNCC1
reactant | DBU | 2.5 mmol, 380 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-methyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]- 1,4,dihydro-4-oxoquinoline -3-carboxylic acid | 200 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC(=C1)C)F)C1CC1)C(=O)O)=O | C20H20F2N6O3
